# CMOS inverter DC Sweep plus VCCS

.analysis dc device=vdc:vin param=vdc start=0 stop=3V shell=0
.options sparse=0

vdc:vdd 1 gnd vdc=3V 
vdc:vin in gnd vdc=1 

x1 in out 1 gnd inverter
vccs:g1 gnd 2 out gnd g=1mS
vdc:amp 2 cout
res:rload cout gnd r=1k

.subckt inverter in out 1 2
mosekv:m1 out in 1 1 type = p
mosekv:m2 out in 2 2 type = n
.ends

.plot dc out 
.plot dc cout 
.plot dc vdc:amp:i

.end


